US06624159B2
Benzyl 2-(Hydroxymethyl)-5-iodo-1-indolinecarboxylate [G.4]
A solution containing benzyl 2-(hydroxymethyl)-1-indolinecarboxylate (Preparation 6, 1.78 g), N-iodosuccinimide (2.83 g), and anhydrous DMF (12 mL) is stirred overnight at 60° C. in a foil-covered flask. This solution is cooled and concentrated to half volume with a stream of nitrogen. The resulting brown solution is partitioned between water (50 mL) and CH2Cl2 (150 mL). The organic phase is washed with brine, dried (Na2SO4), filtered, and concentrated to give a brown oil. The crude product is chromatographed eluting with 0-40% EtOAc in heptane (300 mL each 10%) to give 2.03 g (79%) of the title compound as a peach solid. Physical characteristics: M.p. 110-111° C.; HRMS (FAB) m/z 410.0270 (C17H16INO3+H). Anal. Found: C, 49.83; H, 3.95; N, 3.37.

reactant | benzyl 2-(hydroxymethyl)-1-indolinecarboxylate | 1.78 g | OCC1N(C2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C17H17NO3
reactant | N-iodosuccinimide | 2.83 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | Benzyl 2-(Hydroxymethyl)-5-iodo-1-indolinecarboxylate | 2.03 g, 79% | OCC1N(C2=CC=C(C=C2C1)I)C(=O)OCC1=CC=CC=C1 | C17H16INO3
